US05496930
18. Preparation of 6-O-benzoylgalactal
1.0 g (6.85 mmol) of galactal is taken up in 0.5-1.5 ml of H2O, 8 g of crushed molecular sieves are added, and the mixture is stirred with 1 g of Candida lipase AY-20 (Meito, Sangyo) or 1 g of lipase P (Amano) in 10-15 ml of vinyl benzoate at room temperature for 8-10 h. Filtering off the enzyme, concentration of the solution in vacuo, taking up the residue in ethyl acetate and extracting it with aqueous NaHCO3 solution, and subsequent chromatography on silica gel (ethyl acetate/hexane 1:1) result in 65-68% (about 1130 mg) of the desired 6-O-benzoylgalactal.

reactant | galactal | 6.85 mmol, 1.0 g | O1C=C[C@@H](O)[C@@H](O)[C@H]1CO | C6H10O4
reactant | vinyl benzoate | 10-15 ml | C(C1=CC=CC=C1)(=O)OC=C | C9H8O2
solvent | H2O | 0.5-1.5 ml | O | H2O
product | 6-O-benzoylgalactal | C(C1=CC=CC=C1)(=O)OC[C@@H]1[C@@H]([C@@H](C=CO1)O)O | C13H14O5
